US04410519
(c) 1,2,3,4-tetrahydro-5-methoxy-2-[N-(3-methylthiopropyl)-N-propylamino]naphthalene
2.35 g sodium are dissolved in 50 ml absolute ethanol and immediately 4.8 g methylmercaptan in 60 ml ethanol are added dropwise. The mixture is warmed to 45° and at this temperature a solution of 19.7 g 2-[N-(3-chloropropyl)-N-propylamino]-1,2,3,4-tetrahydro-5-methoxynaphthalene in 120 ml absolute ethanol are added. The mixture is stirred at 50° for 1 hour. The residue is partitioned between ether and water. The ether phase is dried over potassium carbonate, filtered and concentrated. The resultant oil containing the heading compound is used further as such.

reactant | sodium | 2.35 g | [Na] | Na
reactant | methylmercaptan | 4.8 g | CS | CH4S
reactant | 2-[N-(3-chloropropyl)-N-propylamino]-1,2,3,4-tetrahydro-5-methoxynaphthalene | 19.7 g | ClCCCN(CCC)C1CC2=CC=CC(=C2CC1)OC | C17H26ClNO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 1,2,3,4-tetrahydro-5-methoxy-2-[N-(3-methylthiopropyl)-N-propylamino]naphthalene | COC1=C2CCC(CC2=CC=C1)N(CCC)CCCSC | C18H29NOS
